US07767677B2
Synthesis of 3-piperazin-1-yl-6-pyridin-2-yl-pyridazine
To a solution of 3-chloro-6-pyridin-2-ylpyridazine (0.250 g, 1.300 mmol) in acetonitrile (15 mL) was added piperazine (0.335 g, 3.900 mmol) and the mixture was stirred at reflux for 4 hours. The solvent was removed in vacuo. The residue was purified by column chromatography to afford the title compound in 77% yield (0.240 g).

reactant | 3-chloro-6-pyridin-2-ylpyridazine | 1.300 mmol, 0.250 g | ClC=1N=NC(=CC1)C1=NC=CC=C1 | C9H6ClN3
reactant | piperazine | 3.900 mmol, 0.335 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-piperazin-1-yl-6-pyridin-2-yl-pyridazine | 77% yield | N1(CCNCC1)C=1N=NC(=CC1)C1=NC=CC=C1 | C13H15N5
